US05677305
First, a mixture containing 3.0 g of 3-chloro-4-dimethylsulfamoyl-6-nitroaniline, 1.39 g of 4-hydroxypyridine, 0.91 g of 86% potassium hydroxide, and 20 ml of dimethylsulfoxide was heated in an oil bath at 130° C. for 1.5 hours. The subsequent processes were conducted in the same way as in Reference Example 3 to give 1.675 g of 4-dimethylsulfamoyl-3-(4-oxo-4H-pyridin-1-yl)-6-nitroaniline.

reactant | 3-chloro-4-dimethylsulfamoyl-6-nitroaniline | 3.0 g | ClC=1C=C(N)C(=CC1S(N(C)C)(=O)=O)[N+](=O)[O-] | C8H10ClN3O4S
reactant | 4-hydroxypyridine | 1.39 g | OC1=CC=NC=C1 | C5H5NO
reactant | potassium hydroxide | 0.91 g | [OH-].[K+]
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 4-dimethylsulfamoyl-3-(4-oxo-4H-pyridin-1-yl)-6-nitroaniline | 1.675 g | CN(S(=O)(=O)C1=C(C=C(N)C(=C1)[N+](=O)[O-])N1C=CC(C=C1)=O)C | C13H14N4O5S
